US08431607B2
(S)-1-(4-chlorophenyl)-5-(3-(pyridazin-3-yloxy)phenyl)imidazolidin-2-one
To a solution of (S)-1-(4-chlorophenyl)-5-(3-hydroxyphenyl)imidazolidin-2-one (210 mg, 0.73 mmol, prepared by using a similar procedure as described in Example 460) and 3-chloropyradazine (167 mg, 1.46 mmol) in DMF (2 mL) is added Cs2CO3 (354 mg, 1.09 mmol). The mixture is stirred at 80° C. for 14 h and is then cooled to room temperature. The reaction mixture is then treated with water (20 mL) and extracted with EtOAc (3×15 ml). The combined organic layers are washed with brine and dried (MgSO4). After removing the drying agent, the solution is concentrated and purified by flash column chromatography (silica gel, 0%˜10% MeOH/CH2Cl2) to provide the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.95 (dd, J=4.4, 1.2 Hz, 1H), 7.49 (dd, J=8.8, 4.4 Hz, 1H), 7.32-7.40 (m, 3H), 7.10-7.20 (m, 6H), 5.28 (dd, J=8.0, 4.8 Hz, 1H), 4.70 (br s, 1H), 3.97 (t, J=8.8 Hz, 1H), 3.41 (dd, J=8.8, 6.0 Hz, 1H); HPLC-MS calculated for C19H15ClN4O2 (M+H+) 367.1, found 367.1.

reactant | (S)-1-(4-chlorophenyl)-5-(3-hydroxyphenyl)imidazolidin-2-one | ClC1=CC=C(C=C1)N1C(NC[C@@H]1C1=CC(=CC=C1)O)=O | C15H13ClN2O2
reactant | Cs2CO3 | 1.09 mmol, 354 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 20 mL | O | H2O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-1-(4-chlorophenyl)-5-(3-(pyridazin-3-yloxy)phenyl)imidazolidin-2-one | ClC1=CC=C(C=C1)N1C(NC[C@@H]1C1=CC(=CC=C1)OC=1N=NC=CC1)=O | C19H15ClN4O2
